US09167821B2
To a solution of 1-bromo-3-fluoro-2-vinylbenzene (900 mg) in THF (40 ml) was added dropwise, at −78° C., n-butyllithium (3.4 ml 1.6 M/hexane). After 60 minutes, N,N-dimethylformamide (0.69 ml) was added dropwise at −78° C. After stirring at −78° C. for 60 minutes, the reaction mixture was admixed with water and then warmed to room temperature. Then the mixture was admixed with water and extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated. Purification by column chromatography gives 3-fluoro-2-vinylbenzaldehyde (160 mg).

reactant | 1-bromo-3-fluoro-2-vinylbenzene | 900 mg | BrC1=C(C(=CC=C1)F)C=C | C8H6BrF
reactant | n-butyllithium | 1.6 M, 3.4 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.69 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-fluoro-2-vinylbenzaldehyde | 160 mg | FC=1C(=C(C=O)C=CC1)C=C | C9H7FO
